US07018988B2
(2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-N1-pentyl-N2-(2-thienylmethyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 2-thienylmethylamine the title compound was obtained in 86% purity by LC/MS. MS(ESI+): m/z=473.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 2-thienylmethylamine | S1C(=CC=C1)CN | C5H7NS
product | (2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-N1-pentyl-N2-(2-thienylmethyl)-1,2-pyrrolidinedicarboxamide | COC1=CC=C(CON=C2C[C@H](N(C2)C(=O)NCCCCC)C(=O)NCC=2SC=CC2)C=C1 | C24H32N4O4S
